US07524845B2
Preparation of (3-iodo-pyrazolo[3,4-b]pyridin-1-yl)-acetic acid:
Ethyl (3-Iodo-pyrazolo[3,4-b]pyridin-1-yl)-acetate (11 g, 33 mmol, 1 equiv) was dissolved in 50 mL of THF and 50 mL of MeOH to the solution was added 40 mL of 1N LiOH for 3 h. The organic solvents were evaporated and the remaining aqueous phase was neutralized with 1N HCl to a pH of about 1 which resulted in the precipitation of the desired product as a white solid was filtered and air dried to give (3-iodo-pyrazolo[3,4-b]pyridin-1-yl)-acetic acid.

reactant | Ethyl (3-Iodo-pyrazolo[3,4-b]pyridin-1-yl)-acetate | 33 mmol, 11 g, 1 equiv | IC1=NN(C2=NC=CC=C21)CC(=O)OCC | C10H10IN3O2
reactant | MeOH | 50 mL | CO | CH4O
reactant | LiOH | 1N, 40 mL | [Li+].[OH-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (3-iodo-pyrazolo[3,4-b]pyridin-1-yl)-acetic acid | IC1=NN(C2=NC=CC=C21)CC(=O)O | C8H6IN3O2
